US04017522
N,N-bis(2-erucoyloxyethyl)benzamide
N,N-bis(2-erucoyloxyethyl)benzamid was prepared by the procedure of example 1 from 19.5 gms. (0.1 mole) of N,N-bis(2-hydroxyethyl)benzamide and 71 gms. (0.2 mole) of erucoyl chloride. The structure of the final product was characterized on the basis of IR and NMR spectral analyses as described in example 1.

reactant | N,N-bis(2-hydroxyethyl)benzamide | 0.1 mole | OCCN(C(C1=CC=CC=C1)=O)CCO | C11H15NO3
reactant | erucoyl chloride | 0.2 mole | C(CCCCCCCCCCC\C=C/CCCCCCCC)(=O)Cl | C22H41ClO
product | N,N-bis(2-erucoyloxyethyl)benzamide | C(CCCCCCCCCCC\C=C/CCCCCCCC)(=O)OCCN(C(C1=CC=CC=C1)=O)CCOC(CCCCCCCCCCC\C=C/CCCCCCCC)=O | C55H95NO5
